US07456191B2
[1-(5-Bromo-2-chloro-pyrimidin-4-ylamino)-cyclopentyl]-methanol
An ice-cooled solution of 2.28 g (10.0 mmol) of 5-Bromo-2,4-dichloropyrimidine and 1.7 ml (12.0 mmol) of triethylamine in 10 ml of acetonitrile is mixed with 1.38 g (12.0 mmol) (1-amino-cyclopentyl)-methanol. After 16 hours at room temperature the batch is filtrated to remove the solid precipitate. The precipitate is dried. 1.48 g (4.8 mmol, corresponding to 48% of theory) of the product is obtained.

reactant | 5-Bromo-2,4-dichloropyrimidine | 10.0 mmol, 2.28 g | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | triethylamine | 12.0 mmol, 1.7 ml | C(C)N(CC)CC | C6H15N
reactant | (1-amino-cyclopentyl)-methanol | 12.0 mmol, 1.38 g | NC1(CCCC1)CO | C6H13NO
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | [1-(5-Bromo-2-chloro-pyrimidin-4-ylamino)-cyclopentyl]-methanol | BrC=1C(=NC(=NC1)Cl)NC1(CCCC1)CO | C10H13BrClN3O
